US05908858
82(i) 3-(4-Methoxybenzoyl)-2-methylpropionaldehyde
4.36 g (75 mmol) of propionaldehyde were added dropwise under a stream of nitrogen to a solution of 6.46 g (50 mmol) of diisopropylamine, 39 g of molecular sieves 4 Å and 10 mg of 2,6-di-t-butyl-4-methylphenol in 50 ml of tetrahydrofuran, and the mixture was left to stand for 3 hours. At the end of this time, 5.73 g (25 mmol) of 4'-methoxy-2-bromoacetophenone were added to the mixture, and the mixture was left to stand at room temperature overnight. The reaction mixture was then filtered, and 55 ml of 1N aqueous hydrochloric acid were added to the filtrate to separate it into liquid phases. The aqueous layer was separated and extracted twice with ethyl acetate. The organic extracts were combined and washed with water and with a saturated aqueous solution of sodium chloride, in that order. The resulting solution was then dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue thus obtained was applied to a silica gel chromatography column and eluted with a 2:1 by volume mixture of hexane and ethyl acetate, to give 2.82 g (yield 26%) of the title compound as a pale yellow oily substance.

reactant | propionaldehyde | 75 mmol, 4.36 g | C(CC)=O | C3H6O
reactant | diisopropylamine | 50 mmol, 6.46 g | C(C)(C)NC(C)C | C6H15N
reactant | 4'-methoxy-2-bromoacetophenone | 25 mmol, 5.73 g | COC1=CC=C(C=C1)C(CBr)=O | C9H9BrO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | 2,6-di-t-butyl-4-methylphenol | 10 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 3-(4-Methoxybenzoyl)-2-methylpropionaldehyde | 2.82 g, yield 26% | COC1=CC=C(C(=O)CC(C=O)C)C=C1 | C12H14O3
